US03952031
21-Acetoxy-3α-hydroxy-2β-methoxy-5α-pregnane-11,20-dione.
21-Bromo-3α-hydroxy-2β-methoxy-5α-pregnane-11,20-dione (600 mg.) was dissolved in dry acetone (15 ml.) and added to a mixture of glacial acetic acid (2 ml.) and triethylamine (3ml.) and refluxed for 41/2 hours. The mixture was diluted with chloroform, washed with water, dried and evaporated to a foam. Purification by preparative tlc followed by crystallisation from ethyl acetate and petrol gave the title compound (230 mg.) as colourless plates; m.p. 177°-180° [α]D + 112°.

reactant | 21-Bromo-3α-hydroxy-2β-methoxy-5α-pregnane-11,20-dione | 600 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)OC)O)=O | C22H33BrO4
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | triethylamine | 3ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 21-Acetoxy-3α-hydroxy-2β-methoxy-5α-pregnane-11,20-dione | 230 mg | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)OC)O)=O | C24H36O6
